US07745451B2
3,3-Dimethyl-1-{[6-(5-methyl-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ylamino]-methyl}-cyclohexanol
4-chloro-5,6,7,8-tetrahydro-6-(5-methylpyridin-2-yl)pyrido[4,3-d]pyrimidine (0.030 g, 0.00012 mol) and 1-aminomethyl-3,3-dimethyl-cyclohexanol (0.022 g, 0.00014 mol) in acetonitrile (3 mL, 0.06 mol) was heated via microwave in a sealed tube at at 180° C. for a total of 2 hours and five minutes. The reaction mixture was cooled to room temperature and poured into saturated sodium bicarbonate. The mixture was extracted with equal amounts of ethyl acetate and the organic layer was dried over magnesium sulfate. The residue was purified by flash chromatography over silica gel methanol/dichloromethane (0-10%) to yield the title compound.

reactant | 4-chloro-5,6,7,8-tetrahydro-6-(5-methylpyridin-2-yl)pyrido[4,3-d]pyrimidine | 0.00012 mol, 0.030 g | ClC=1C2=C(N=CN1)CCN(C2)C2=NC=C(C=C2)C | C13H13ClN4
reactant | 1-aminomethyl-3,3-dimethyl-cyclohexanol | 0.00014 mol, 0.022 g | NCC1(CC(CCC1)(C)C)O | C9H19NO
reactant | acetonitrile | 0.06 mol, 3 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3,3-Dimethyl-1-{[6-(5-methyl-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ylamino]-methyl}-cyclohexanol | CC1(CC(CCC1)(O)CNC=1C2=C(N=CN1)CCN(C2)C2=NC=C(C=C2)C)C | C22H31N5O
